US09376422B2
Step 3: Synthesis of 2-chloro-3-methylpyridine-4-carboxylic acid
2-chloro-N,3-dimethyl-N-phenylpyridine-4-carboxamide (2.2 g, 8.5 mmol) was treated with a mixture of concentrated H2SO4 (23.2 ml) and water (16.8 ml) and then heated to 130° C. for 46 hours. After which time, the reaction mixture was allowed to reach room temperature and poured onto ice (200 ml) and stirred until the ice had melted. The mixture was made alkaline (pH 8) by the addition of solid Na2CO3 (50.3 g) portionwise. The suspension was filtered and the filtrate acidified to pH 3 by the addition of 6M HCl (aq) (˜1.5 ml). The resulting solid was collected by filtration, washed with water (20 ml) and dried in-vacuo at 40° C. for 10 hours to give the title compound (779 mg, 54%) as a pink solid. LC-MS 100%, m/z=171.9, 173.9; 1H NMR (500 MHz, MeOD) δ ppm 8.30 (d, J=4.89 Hz, 1H) 7.64 (d, J=5.04 Hz, 1H) 2.58 (s, 3H).

reactant | 2-chloro-N,3-dimethyl-N-phenylpyridine-4-carboxamide | 8.5 mmol, 2.2 g | ClC1=NC=CC(=C1C)C(=O)N(C1=CC=CC=C1)C | C14H13ClN2O
reactant | H2SO4 | 23.2 ml | OS(=O)(=O)O | H2O4S
reactant | Na2CO3 | 50.3 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 16.8 ml | O | H2O
product | 2-chloro-3-methylpyridine-4-carboxylic acid | 779 mg, 54% | ClC1=NC=CC(=C1C)C(=O)O | C7H6ClNO2
